US05686445
10,11-Dihydro-N,N-dimethyldibenz[b,f][1,4]oxazepine-2-sulfonamide
To 5.88 g of 10,11-dihydro-N,N-dimethyl-11-oxodibenz[b,f][1,4]oxazepine-2-sulfonamide in 5 ml of tetrahydrofuran is added 20 ml of a molar solution of borane-dimethylsulfide in tetrahydrofuran. The mixture is stirred overnight and then refluxed for 2 hours. The mixture is chilled, diluted with 10 ml of methanol and then concentrated, methanol added again and the mixture concentrated. To the mixture is added 20 ml of 2N NaOH and the mixture refluxed for 2 hours. The mixture is extracted with dichloromethane, the extract dried (MgSO4) and filtered. The filtrate is passed through a thin pad of hydrous magnesium silicate and the pad washed with dichloromethane. The filtrate is concentrated to give 4.8 g of crystals, m.p. 99°-102° C. Recrystallization from diisopropylether-dichloromethane gives 3.96 g of crystals, m.p. 109°-110° C. Mass Spectrum (FAB) 305(M+H).

reactant | 10,11-dihydro-N,N-dimethyl-11-oxodibenz[b,f][1,4]oxazepine-2-sulfonamide | 5.88 g | CN(S(=O)(=O)C=1C=CC2=C(C(NC3=C(O2)C=CC=C3)=O)C1)C | C15H14N2O4S
reactant | borane dimethylsulfide | B.CSC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 10,11-Dihydro-N,N-dimethyldibenz[b,f][1,4]oxazepine-2-sulfonamide | 4.8 g | CN(S(=O)(=O)C=1C=CC2=C(CNC3=C(O2)C=CC=C3)C1)C | C15H16N2O3S
